US08957062B2
Step A: 5-(benzyloxy)-2-bromobenzonitrile
4-bromo-3-cyanophenol (1 g, 5.05 mmol) was dissolved in DMF (10 ml) and K2CO3 (1.40 g, 10.10 mmol) and benzyl bromide (0.66 ml, 5.56 mmol) added. The mixture was stirred under N2 for 1 hr at RT. The mixture was diluted with water (15 mL) and extracted with EtOAc (2×10 mL). The organic fractions were combined, washed with brine (saturated, 1×8 mL), dried over MgSO4, filtered and the volatiles removed in vacuo. The residue was purified by chromatography on silica gel Biotage 25M, using a gradient eluant of EtOAc/Hexane (0-50%) to afford the title compound. LC/MS (m/z): 289 (M+H)+.

reactant | 4-bromo-3-cyanophenol | 5.05 mmol, 1 g | BrC1=C(C=C(C=C1)O)C#N | C7H4BrNO
reactant | K2CO3 | 10.10 mmol, 1.40 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 5.56 mmol, 0.66 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | 5-(benzyloxy)-2-bromobenzonitrile | C(C1=CC=CC=C1)OC=1C=CC(=C(C#N)C1)Br | C14H10BrNO
